US07700641B2
F. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 26C, and making non-critical variations to replace 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one with 3-(6-hydroxy-1,3-benzodioxol-5-yl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one, the title compound was obtained (64%): MS (ES+) m/z 500.4 (M+23).

reactant | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO3
reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC(=C12)OC)CC=1OC(=CC1)C(F)(F)F)=O | C22H16F3NO6
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-4-methoxy-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC(=C12)OC)CC=1OC(=CC1)C(F)(F)F)=O)CO | C23H18F3NO7
